US07662442B2
(1-2) Synthesis of trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexyl methanol
A 70% sodium bis(2-methoxyethoxy)aluminum hydride toluene solution (60.0 g) was added by titration to a toluene solution (100 mL) of ethyl trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexanecarboxylate (55.1 g), and thereafter, the resultant was continuously stirred until it cooled down to room temperature due to subdued heating. After the reaction was halted by adding ice water to a reaction solution, toluene was added, and concentrated hydrochloric acid was added until the dissolution of the deposited solid. An organic layer was separated and extracted with toluene from a water layer. Thus collected organic layer was washed by using water, a saturated sodium bicarbonate aqueous solution and brine in that order, and dried with anhydrous magnesium sulphate. Solvents were removed by distillation to obtain a slightly yellow solid of 47.3 g.

reactant | sodium bis(2-methoxyethoxy)aluminum hydride toluene | 60.0 g | C1(=CC=CC=C1)C.[H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | ethyl trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexanecarboxylate | 55.1 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C(=O)OCC | C20H36O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | trans-4-(2-(trans-4-propylcyclohexyl)ethyl)cyclohexyl methanol | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CO | C18H34O
